US07989462B2
(4-Methylthio-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine
To a solution of (4-methylthio-phenyl)-(2-methyl-quinazolin-4-yl)-amine (263 mg, 0.94 mmol) in DMF (4 ml) at 0° C. was added sodium hydride (56.4 mg, 1.40 mmol, 60% oil dispersion) and followed by methyl iodide (0.09 ml, 1.40 mmol). The mixture was stirred at 0° C. for 1 h, then allowed to warm to room temperature and stirred for another 2 h. The reaction mixture was diluted with EtOAc (15 ml), washed with saturated NaHCO3 aq., brine, dried over Na2SO4, filtered and concentrated by vacuum. The residue was purified by chromatography on silica gel with acetate and hexane (1:2 to 1:1) as eluent, yielding 120 mg of title compound (40.7%). 1H NMR (CDCl3): 7.76 (d, J=9.0 Hz, 1H), 7.54 (t, J=7.5 Hz, 1H), 7.24-7.19 (m, 2H), 7.10-6.97 (m, 4H), 3.59 (s, 3H), 2.74 (s, 3H), 2.48 (s, 3H)

reactant | (4-methylthio-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.94 mmol, 263 mg | CSC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C | C16H15N3S
reactant | sodium hydride | 1.40 mmol, 56.4 mg | [H-].[Na+]
reactant | methyl iodide | 1.40 mmol, 0.09 ml | CI | CH3I
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | (4-Methylthio-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine | 120 mg, 40.7% | CSC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C17H17N3S
